US05753657
To a suspension of 0.92 g of 10-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride in 20 ml of anhydrous dimethylformamide, maintained under a nitrogen atmosphere at a temperature in the region of 20° C., are added 1.1 g of triethylamine followed, dropwise over 10 minutes, by a solution of 1.25 g of phenyl isocyanate in 2 ml of anhydrous dimethylformamide and the mixture is stirred for 2 hours at the same temperature. The insoluble material formed is separated out by filtration, washed twice with 2 ml in total of dimethylformamide and dried under reduced pressure (5 mmHg; 0.65 kPa) at 100° C. The product obtained (0.9 g) is dissolved in 15 ml of dimethyl sulphoxide and, after addition of 15 ml of distilled water, the solution is stirred for 2 hours at a temperature in the region of 20° C. The insoluble material formed is separated out by filtration, washed twice with 2 ml in total of distilled water and dried under reduced pressure (1 mmHg; 0.13 kPa) at 100° C. 0.53 g of 10-(3-phenylureido)-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one is thus obtained, decomposing without melting above 260° C. [N.M.R. spectrum: [200 MHz; (CD3)2SO d6 ; δ in ppm]: 6.10 (d, J=8.5 Hz, 1H: --CH-- 10); 6.91 (d, J=8.5 Hz, 1H: --NHCO-- at 10); 7.00 (t, J=7.5 Hz, 1H: --H at 4 of the phenylcarbamoyl); 7.31 (t, J=7.5 Hz, 2H: --H at 3 and --H at 5 of the phenylcarbamoyl); 7.38 and 7.48 (2t broad, J=8 Hz, 1H each: --H7 and --H8); 7.52 (d, J=7.5 Hz, 2H: --H at 2 and --H at 6 of the phenylcarbamoyl); 7.60 and 7.85 (2s, 1H each: --H of the imidazole); 7.62 and 7.88 (2d broad, J=8 Hz, 1H each: --H6 and --H9); 8.68 (s, 1H: Ar--NO--CO); 12.50 (broad s, 1H: --CONH-- of the ring)].

reactant | 10-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 0.92 g | Cl.NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 1.25 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | water | 15 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethyl sulphoxide | 15 ml | CS(=O)C | C2H6OS
product | 10-(3-phenylureido)-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one | 0.53 g | C1(=CC=CC=C1)NC(NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)=O | C20H15N5O2
